US06864265B2
3-(benzimidazol-1-yl)propan-1-ol (100 mg, 0.57 mmol) was dissolved in dichloromethane (6 mL), and treated with sodium periodinane (290 mg, 0.68 mmol). After stirring 5 hours, the mixture was treated with sodium bicarbonate (10 mL), ethyl acetate (10 mL), sodium thiosulfate (2 g) and extracted with ethyl acetate (2×10 mL). The organic phases were combined and washed with brine (15 mL), dried (MgSO4), filtered, and concentrated to yield the desired 3-(benzimidazol-1-yl)propanal (81 mg, 80%) as a yellow oil. 1H NMR (CDCl3) δ3.09 (t, 2H, J=6 Hz), 4.54 (t, 2H, J=6 Hz), 7.32 (m, 2H), 7.38 (m, 1H), 7.80 (d, 1H, J=6 Hz), 8.00 (s, 1H), 9.81 (s, 1H).

reactant | 3-(benzimidazol-1-yl)propan-1-ol | 0.57 mmol, 100 mg | N1(C=NC2=C1C=CC=C2)CCCO | C10H12N2O
reactant | sodium | [Na] | Na
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 2 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-(benzimidazol-1-yl)propanal | 81 mg, 80% | N1(C=NC2=C1C=CC=C2)CCC=O | C10H10N2O
